US07504411B2
To a solution of (S)-1,4-di(t-butoxycarbonyl)-2-(4-((S)-3-(pyrrolidin-1-yl) pyrrolidin-1-yl)phenyl)piperazine (479 mg, 0.957 mmol) in dichloromethane (4 mL) was added 4 N hydrogen chloride in ethyl acetate (4 mL) at room temperature. After stirring for 3 h, the resulting precipitate was collected and dried in vacuo to afford (S)-2-(4-((S)-3-(pyrrolidin-1-yl)pyrrolidin-1-yl)phenyl)piperazine tetrahydrochloride (370 mg, 87%) as a white solid.

reactant | (S)-1,4-di(t-butoxycarbonyl)-2-(4-((S)-3-(pyrrolidin-1-yl) pyrrolidin-1-yl)phenyl)piperazine | 0.957 mmol, 479 mg | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)N1C[C@H](CC1)N1CCCC1 | C28H44N4O4
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
product | (S)-2-(4-((S)-3-(pyrrolidin-1-yl)pyrrolidin-1-yl)phenyl)piperazine tetrahydrochloride | 370 mg, 87% | Cl.Cl.Cl.Cl.N1(CCCC1)[C@@H]1CN(CC1)C1=CC=C(C=C1)[C@@H]1NCCNC1 | InChI=1S/C18H28N4.4ClH/c1-2-11-21(10-1)17-7-12-22(14-17)16-5-3-15(4-6-16)18-13-19-8-9-20-18;;;;/h3-6,17-20H,1-2,7-14H2;4*1H/t17-,18+;;;;/m0..../s1
